US08937078B2
Step B: Preparation of 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
Titanium (IV) chloride (0.86 mL, 7.8 mmol) was added to a solution of 1-{ethoxycarbonylimino-[4-(naphthalen-1-yloxy)-phenylamino]methyl}-1H-pyrazole-4-carboxylic acid ethyl ester (0.74 g, 1.6 mmol) and DCE (10 mL), and the resulting mixture was heated to 90° C. for 16 h. The reaction mixture was cooled to room temperature and poured into 50 mL EtOH. The mixture was stirred for 30 min and the solid precipitate was collected by vacuum filtration (0.46 g, 69%). MS (ESI): mass calcd. for C24H18N4O4, 426.1; m/z found, 427.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 12.87 (s, 1H), 8.99 (s, 1H), 8.29 (s, 1H), 8.05 (d, J=7.5 Hz, 1H), 8.02 (d, J=8.3 Hz, 1H), 7.86 (d, J=8.3 Hz, 1H), 7.79 (d, J=7.6 Hz, 1H), 7.70 (dd, J=8.9, 2.9 Hz, 1H), 7.64-7.60 (m, 1H), 7.60-7.53 (m, 2H), 7.39 (d, J=2.8 Hz, 1H), 7.23 (d, J=7.4 Hz, 1H), 4.30 (q, J=7.1 Hz, 2H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 1-{ethoxycarbonylimino-[4-(naphthalen-1-yloxy)-phenylamino]methyl}-1H-pyrazole-4-carboxylic acid ethyl ester | 1.6 mmol, 0.74 g | C(C)OC(=O)C=1C=NN(C1)C(NC1=CC=C(C=C1)OC1=CC=CC2=CC=CC=C12)=NC(=O)OCC | C26H24N4O5
reactant | DCE | 10 mL | ClCCCl | C2H4Cl2
catalyst | Titanium (IV) chloride | 7.8 mmol, 0.86 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | EtOH | 50 mL | CCO | C2H6O
product | 1-[6-(naphthalen-1-yloxy)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)OC1=CC=CC2=CC=CC=C12 | C24H18N4O4
